US07700637B2
A mixture of the title A compound, 2-hydroxy-6-methyl-4-propoxy-benzoic acid methyl ester (407 mg, 1.81 mmol), the title D compound, 4-(4-bromomethyl-phenoxymethyl)-5-methyl-2-phenyl-oxazole (650 mg, 1.81 mmol) and potassium carbonate (751 mg, 5.44 mmol) in DMF is stirred at RT overnight. The mixture is then partitioned between EtOAc and water. The organic layer is washed with brine, dried with magnesium sulfate and concentrated under vacuum to give the crude product. Chromatography on silica gel, using 10% EtOAc in hexane gives 2-methyl-6-[4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-benzyloxy]-4-propoxy-benzoic acid methyl ester as a white foam: ESI-MS 502 [M+1]+.

reactant | 2-hydroxy-6-methyl-4-propoxy-benzoic acid methyl ester | 1.81 mmol, 407 mg | COC(C1=C(C=C(C=C1C)OCCC)O)=O | C12H16O4
reactant | 4-(4-bromomethyl-phenoxymethyl)-5-methyl-2-phenyl-oxazole | 1.81 mmol, 650 mg | BrCC1=CC=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1 | C18H16BrNO2
reactant | potassium carbonate | 5.44 mmol, 751 mg | C([O-])([O-])=O.[K+].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | 2-methyl-6-[4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-benzyloxy]-4-propoxy-benzoic acid methyl ester | COC(C1=C(C=C(C=C1OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1)OCCC)C)=O | C30H31NO6
